US08629137B2
3,4-dimethyl-6-{6-[4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidin-1-yl]-pyrimidine-4-carbonyl}-3H-benzoxazol-2-one
98 mg (0.40 mmol) 5-phenyl-2-piperidin-4-yl-2,4-dihydro-[1,2,4]triazol-3-one, 0.12 g (0.40 mmol) 6-(6-chloro-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.14 mL (0.80 mmol) DIPEA were combined in 3 mL DMF and stirred for 48 h at RT. The mixture was diluted with MeOH, suction filtered, washed with MeOH and diethyl ether and dried.

reactant | 5-phenyl-2-piperidin-4-yl-2,4-dihydro-[1,2,4]triazol-3-one | 0.40 mmol, 98 mg | C1(=CC=CC=C1)C=1NC(N(N1)C1CCNCC1)=O | C13H16N4O
reactant | 6-(6-chloro-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.40 mmol, 0.12 g | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | DIPEA | 0.80 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3,4-dimethyl-6-{6-[4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidin-1-yl]-pyrimidine-4-carbonyl}-3H-benzoxazol-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=NC=NC(=C2)N2CCC(CC2)N2N=C(NC2=O)C2=CC=CC=C2)C)=O | C27H25N7O4
